US06191124B1
A solution of imidazo[2,1-b]benzothiazole-3-carboxylic acid ethyl ester (Formula J-1), (synthesized from 2-aminobenzothiazole by a modification of the procedures described by Fajeli et al., Heterocycles, 1986, 24, 379) (4.5 g) in THF (75 mL) was treated with LiAlH4 (0.91 g) and reacted for 5.25 hours. The suspension was quenched by serial additions of water and 15% sodium hydroxide. The suspension was diluted with THF and filtered. The filtrate was evaporated, the residue was triturated with hexane to yield imidazo[2,1-b]benzothiazole-3-methanol (Formula J-2) (2.77 g, 74%). Crude imidazo[2,1-b]benzothiazole-3-methanol (Formula J-2) was used without further purification.

reactant | imidazo[2,1-b]benzothiazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=CN=C2SC3=C(N21)C=CC=C3 | C12H10N2O2S
reactant | 2-aminobenzothiazole | NC=1SC2=C(N1)C=CC=C2 | C7H6N2S
reactant | LiAlH4 | 0.91 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | imidazo[2,1-b]benzothiazole-3-methanol | 2.77 g, 74% | N=1C=C(N2C1SC1=C2C=CC=C1)CO | C10H8N2OS
